US08133864B2
To a solution of N-t-butoxycarbonyl-(S)-2-amino-5-iodopentanoic acid benzyl ester(J.Org. Chem. 1998, 7875-7884)(100.8 mg, 0.23 mmol) in N,N-dimethylformamide (0.25 mL) was added piperidine (41.5 mg, 0.49 mmol) and the mixture was stirred for 3 hours at room temperature. To the reaction mixture was added chloroform (30 mL) and the mixture was washed with saturated aqueous sodium hydrogencarbonate solution (3×3 mL). The organic phase was dried over anhydrous sodium sulfate and concentrated under vacuum to obtain crude N-t-butoxycarbonyl-(S)-2-amino-5-(1-piperidinyl)pentanoic acid benzyl ester(83.8 mg) as a colorless oily material.

reactant | N-t-butoxycarbonyl-(S)-2-amino-5-iodopentanoic acid benzyl ester | 0.23 mmol, 100.8 mg | C(C1=CC=CC=C1)OC([C@H](CCCI)NC(=O)OC(C)(C)C)=O | C17H24INO4
reactant | piperidine | 0.49 mmol, 41.5 mg | N1CCCCC1 | C5H11N
reactant | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 0.25 mL | CN(C=O)C | C3H7NO
product | N-t-butoxycarbonyl-(S)-2-amino-5-(1-piperidinyl)pentanoic acid benzyl ester | 83.8 mg | C(C1=CC=CC=C1)OC([C@H](CCCN1CCCCC1)NC(=O)OC(C)(C)C)=O | C22H34N2O4
